US05356918
N-(2-Nitrooxyethyl)-2-oxo-5-(2-thienyl)thiazolidine-4-carboxamide (Compound No. 1-8)
A procedure similar to that described in Example 1 was repeated, but using 350 mg of N-(2-nitrooxyethyl)amine nitrate and 400 mg of 2-oxo-5-(2-thienyl)thiazolidine-4-carboxylic acid, to obtain 260 mg of the title compound as colorless crystals, melting at 120°-122° C. (after recrystallization from ethanol).

reactant | N-(2-nitrooxyethyl)amine nitrate | 350 mg | [N+](=O)(O)[O-].[N+](=O)([O-])OCCN
reactant | 2-oxo-5-(2-thienyl)thiazolidine-4-carboxylic acid | 400 mg | O=C1SC(C(N1)C(=O)O)C=1SC=CC1 | C8H7NO3S2
product | N-(2-Nitrooxyethyl)-2-oxo-5-(2-thienyl)thiazolidine-4-carboxamide | [N+](=O)([O-])OCCNC(=O)C1NC(SC1C=1SC=CC1)=O | C10H11N3O5S2
